US04273776
B. 1-(2,4-Dichlorophenyl)-3-(1H-imidazol-1-yl)-2-methyl-2-propen-1-one
Following the procedure according to Example 1B, except reacting 1-(2,4-dichlorophenyl)-3-hydroxy-2-methyl-2-propen-1-one with carbonyl-bis-imidazole, the title compound is produced, m.p. 129°-130° (ethanol/refrigerator), yield 79%.

reactant | 1-(2,4-dichlorophenyl)-3-hydroxy-2-methyl-2-propen-1-one | ClC1=C(C=CC(=C1)Cl)C(C(=CO)C)=O | C10H8Cl2O2
reactant | carbonyl-bis-imidazole | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
product | 1-(2,4-Dichlorophenyl)-3-(1H-imidazol-1-yl)-2-methyl-2-propen-1-one | yield 79% | ClC1=C(C=CC(=C1)Cl)C(C(=CN1C=NC=C1)C)=O | C13H10Cl2N2O
